US08957074B2
Preparation of 7-Cyclopentyl-2-[6-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridazin-3-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide
To a solution of 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester (110 mg, 0.187 mmol) in DCM (1 ml) at −78° C. was added TFA (1 mL, 13.0 mmol). After warming to room temperature and stirring for 1 h, the reaction was concentrated under reduced pressure. The resulting oily residue was dissolved in 2 mL MeOH, flushed through a PL-HCO3 MP-Resin cartridge to remove TFA, then purified by HPLC which gave a white solid (55 mg, 0.112 mmol). 1H NMR (400 MHz, DMSO): δ, 10.71 (s, 1H), 8.88 (s, 1H), 8.60 (d, J=8 Hz, 1H), 7.82 (d, J=8 Hz, 1H), 6.68 (s, 1H), 4.81-4.72 (m, 1H), 4.22 (d, J=12 Hz, 1H), 3.53 (d, J=12 Hz, 1H), 3.48 (br s, 1H), 3.29 (br s, 1H), 3.27 (d, J=12 Hz, 1H), 3.06 (s, 3H), 3.05 (s, 3H) 2.93 (d, J=12 Hz, 1H), 2.42-2.33 (m, 2H), 2.01-1.96 (m, 4H), 1.72-1.58 (m, 6H); HRMS calcd for C25H31N9O2. H+ (M+H)+ 490.2679. Found 490.2676 (M+H)+.

reactant | 3-[6-(7-cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridazine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carboxylic acid tert-butyl ester | 0.187 mmol, 110 mg | C(C)(C)(C)OC(=O)N1C2CN(CC1CC2)C(=O)C=2N=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1 | C30H39N9O4
reactant | TFA | 13.0 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 1 ml | C(Cl)Cl | CH2Cl2
product | 7-Cyclopentyl-2-[6-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridazin-3-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.112 mmol, 55 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC=2N=NC(=CC2)C(=O)N2CC3CCC(C2)N3)N1C1CCCC1)C | C25H31N9O2
